US07812022B2
Step B: 3-Chloro-4-{[2-(methyloxy)ethyl]oxy}aniline
2-Chloro-1-{[2-(methyloxy)ethyl]oxy}-4-nitrobenzene (1.0 g) was dissolved in a 1:1 solution of EtOAc and ethanol (30 mL). Pt/C (0.15 g of 10% by weight) was added and the resulting mixture was placed under 50 psi of H2 for 16 h. The reaction was then filtered through celite and the resulting organics were concentrated in vacuo to obtain 0.85 g of the compound. 1H NMR (300 MHz, DMSO-d6): δ 6.88 (d, 1H), 6.66 (m, 1H), 6.50 (m, 1H), 4.00 (m, 2H), 3.63 (m, 2H), 3.33 (s, 3H).

reactant | 2-Chloro-1-{[2-(methyloxy)ethyl]oxy}-4-nitrobenzene | 1.0 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])OCCOC | C9H10ClNO4
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Pt/C | 0.15 g | [Pt] | Pt
product | 3-Chloro-4-{[2-(methyloxy)ethyl]oxy}aniline | 0.85 g | ClC=1C=C(N)C=CC1OCCOC | C9H12ClNO2
